US07732471B2
tert-Butyl 2-(4-hydroxybutoxymethyl)-6-methylbenzoate is prepared from tert-butyl 2-bromomethyl-6-methylbenzoate and butane-1,4-diol in analogy to the synthesis of tert-butyl 2-(3-hydroxypropoxymethyl)-6-methylbenzoate.

reactant | tert-butyl 2-bromomethyl-6-methylbenzoate | BrCC1=C(C(=O)OC(C)(C)C)C(=CC=C1)C | C13H17BrO2
reactant | butane-1,4-diol | C(CCCO)O | C4H10O2
reactant | tert-butyl 2-(3-hydroxypropoxymethyl)-6-methylbenzoate | OCCCOCC1=C(C(=O)OC(C)(C)C)C(=CC=C1)C | C16H24O4
product | tert-Butyl 2-(4-hydroxybutoxymethyl)-6-methylbenzoate | OCCCCOCC1=C(C(=O)OC(C)(C)C)C(=CC=C1)C | C17H26O4
